US08975254B2
c) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-ethoxy-4-methyl-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-ethoxy-4-methyl-1H-pyrazole-5-carboxylic acid (0.117 g, 0.690 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.15 g, 0.575 mmol). The product was purified with reverse phase flash-chromatography. Yield 4.21%. 1H-NMR (400 MHz; DMSO-d6): δ 1.16 (d, 3H), 1.28 (t, 3H), 1.94 (s, 3H), 4.10-4.17 (m, 2H), 4.28-4.33 (m, 2H), 4.37-4.46 (m, 1H), 6.96 (d, 1H), 7.72 (d, 1H), 7.85 (d, 1H), 7.92 (dd, 1H), 7.98 (d, 1H), 8.07 (d, 1H), 12.08 (s, 1H).

reactant | 3-ethoxy-4-methyl-1H-pyrazole-5-carboxylic acid | 0.690 mmol, 0.117 g | C(C)OC1=NNC(=C1C)C(=O)O | C7H10N2O3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.575 mmol, 0.15 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-ethoxy-4-methyl-1H-pyrazole-5-carboxamide | Yield 4.21% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=C(C(=NN1)OCC)C | C20H21ClN6O2
